US05541326
α-{1-[(4-(2-Methoxyphenyl)piperazinyl]methyl}benzeneacetic acid
1-(2-Methoxyphenyl)piperazine (22.6 g, 0.118 mol) and atropic acid (174 g, 0.118 mol) in ethanol (300 ml) were heated under reflux for 18 hours, cooled to room temperature, and evaporated in vacuo. The solid was triturated with acetone (3×100 ml) to give a first crop of product (13.8 g) as white crystals. The filtrate was evaporated in vacuo to give an oil which slowly crystallised over 1 month. The solid was triturated with acetone (200 ml) to give a second crop of the hemihydrate of the product (9.01 g) as white crystals, m.p. 160°-163°.

reactant | 1-(2-Methoxyphenyl)piperazine | 0.118 mol, 22.6 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | atropic acid | 0.118 mol, 174 g | C(C(=C)C1=CC=CC=C1)(=O)O | C9H8O2
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | 1-[(4-(2-Methoxyphenyl)piperazinyl]methyl}benzeneacetic acid | 13.8 g | COC1=C(C=CC=C1)N1CCN(CC1)CC1(CC=CC=C1)CC(=O)O | C20H26N2O3
